US04171976
To a well stirred solution of 53.84 g of bis-(2-chloroethylsulfonyl)methane in 300 ml of acetone containing 0.9 g of 3,5-dinitrobenzoic acid, was added dropwise at 20°-25° C. a solution of 40.48 g of triethylamine in 50 ml of acetone containing 0.15 g of 3,5-dinitrobenzoic acid. The reaction was stirred for 1 hour at 25° C. then cooled to -30° C. and filtered to remove triethylamine hydrochloride. The filtrate was evaporated to dryness on a rotary evaporator at 40° C. and water aspirator pressure. The residue was recrystallized from methanol containing 0.3 percent (wt/vol) of 3,5-dinitrobenzoic acid, to give 29.3 g (75 percent) of colorless crystalline bis(vinylsulfonyl)methane of m.p. 59°-61° C. This material readily dissolved in water to give a 2 percent by weight solution with no insoluble material present.

reactant | bis-(2-chloroethylsulfonyl)methane | 53.84 g | ClCCS(=O)(=O)CS(=O)(=O)CCCl | C5H10Cl2O4S2
reactant | 3,5-dinitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | triethylamine | 40.48 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 300 ml, 0.9 g | CC(=O)C | C3H6O
solvent | acetone | 50 ml, 0.15 g | CC(=O)C | C3H6O
product | bis(vinylsulfonyl)methane | 29.3 g, 75 percent | C(=C)S(=O)(=O)CS(=O)(=O)C=C | C5H8O4S2
